US06531502B1
A mixture of 6-acetamido-2-oxindole (285 mg), 2,2-dimethylchroman-6-carboxaldehyde (285 mg) and piperidine (0.2 ml) was stirred at 90° C. overnight. The reaction mixture was cooled and diluted with 20 ml of water. The sticky solid which formed was filtered and chromatographed (2% ethanol in ethyl acetate) to give 240 mg (44%) of N-[3-(2,2-dimethylchroman-6-ylmethylene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide as an orange red solid.

reactant | 6-acetamido-2-oxindole | 285 mg | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
reactant | 2,2-dimethylchroman-6-carboxaldehyde | 285 mg | CC1(OC2=CC=C(C=C2CC1)C=O)C | C12H14O2
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | water | 20 ml | O | H2O
product | N-[3-(2,2-dimethylchroman-6-ylmethylene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide | 240 mg, 44% | CC1(OC2=CC=C(C=C2CC1)C=C1C(NC2=CC(=CC=C12)NC(C)=O)=O)C | C22H22N2O3
